US09102591B2
To a solution of (1-trifluoromethyl-cyclopropyl)-methanol (1.2 g, 8.57 mmol) and Et3N (1.04 g, 10.28 mmol) in dry DMF (10 mL) at −10° C. was added methanesulfonyl chloride (981 mg, 8.57 mmol) over 20 minutes, while retaining the inner temperature at 0° C. After the addition was complete, the resulting solution was stirred at 0° C. for 30 minutes, the resulting mixture was filtered and washed with DMF (3 mL). To the combined filtrates was added sodium bromide (3.7 g, 36 mmol) and the resulting mixture was stirred at room temperature overnight. The mixture was cooled in ice, followed by addition of pentane (20 mL) and water (15 mL) while retaining the mixture at 0° C., prior to liquid separation. The organic phase was dried over Na2SO4 and filtered. The filtrate was distilled to remove the most of pentane to give 1-bromomethyl-1-trifluoromethyl-cyclopropane (0.9 g crude), which was used without further purification.

reactant | (1-trifluoromethyl-cyclopropyl)-methanol | 8.57 mmol, 1.2 g | FC(C1(CC1)CO)(F)F | C5H7F3O
reactant | Et3N | 10.28 mmol, 1.04 g | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 8.57 mmol, 981 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bromide | 36 mmol, 3.7 g | [Br-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 15 mL | O | H2O
solvent | pentane | 20 mL | CCCCC | C5H12
product | 1-bromomethyl-1-trifluoromethyl-cyclopropane | 0.9 g | BrCC1(CC1)C(F)(F)F | C5H6BrF3
